// lif_neuron.scs - Leaky Integrate-and-Fire Neuron
// Analog neuromorphic building block
// Run: spectre lif_neuron.scs -raw lif_neuron.raw

simulator lang=spectre

// Parameters
parameters vdd_val=1.8 cmem=1p rleak=10M iin_amp=500n

// MOSFET Models (same as digital blocks for compatibility)
model nch mos1 type=n vth=0.4 kp=120u
model pch mos1 type=p vth=-0.4 kp=40u

// ============================================================
// LEAKY INTEGRATE-AND-FIRE NEURON
// ============================================================
//
// Biological analogy:
//   - Cmem = membrane capacitance (stores charge like cell membrane)
//   - Rleak = leak conductance (ion channels that cause decay)
//   - Threshold = action potential trigger level
//   - Reset = refractory period (membrane returns to rest)
//
// Circuit operation:
//   1. Input current charges membrane capacitor
//   2. Leakage resistor causes voltage decay (RC time constant)
//   3. When Vmem crosses threshold, inverter chain triggers spike
//   4. Spike feeds back to reset switch, discharging membrane
//   5. Cycle repeats
//
// ============================================================

// Power supply
V_VDD (vdd 0) vsource dc=vdd_val

// ------------------------------------------------------------
// INPUT: Current pulses representing synaptic input
// ------------------------------------------------------------
// In a full system, this comes from synapse circuits
// Here we use a current pulse train for testing
I_in (vdd mem) isource type=pulse val0=0 val1=iin_amp \
    delay=5n rise=100p fall=100p width=2n period=20n

// ------------------------------------------------------------
// MEMBRANE: Capacitor + Leakage
// ------------------------------------------------------------
// Membrane capacitor (integrates input current)
Cmem (mem 0) capacitor c=cmem

// Leakage resistor (causes exponential decay)
// Tau = R * C = 10M * 1p = 10us (biological neurons ~10-100ms)
// Scaled for simulation speed
Rleak (mem 0) resistor r=rleak

// ------------------------------------------------------------
// THRESHOLD DETECTOR: Inverter chain (acts as comparator)
// ------------------------------------------------------------
// When Vmem rises above ~Vdd/2, output switches
// Two inverters for sharp transition and correct polarity

// Inverter 1: mem -> spike_n (inverted)
MP1 (spike_n mem vdd vdd) pch w=2u l=1u
MN1 (spike_n mem 0 0) nch w=1u l=1u

// Inverter 2: spike_n -> spike (restored polarity)
MP2 (spike spike_n vdd vdd) pch w=2u l=1u
MN2 (spike spike_n 0 0) nch w=1u l=1u

// ------------------------------------------------------------
// RESET: Feedback discharge switch
// ------------------------------------------------------------
// When spike goes HIGH, NMOS turns on and discharges membrane
// This creates the "refractory period" behavior
// Weak transistor for controlled discharge rate

MN_reset (mem spike 0 0) nch w=500n l=1u

// ------------------------------------------------------------
// OUTPUT BUFFER: Clean digital spike output
// ------------------------------------------------------------
MP3 (out spike vdd vdd) pch w=2u l=1u
MN3 (out spike 0 0) nch w=1u l=1u

// ============================================================
// ANALYSIS
// ============================================================

// Transient: observe spiking behavior over multiple input pulses
tran_test tran stop=200n

// Save key signals
save mem spike out

// ============================================================
// EXPECTED BEHAVIOR:
// - mem: sawtooth-like waveform, charging then resetting
// - spike: brief HIGH pulses when mem crosses threshold
// - Spike rate increases with input current (rate coding)
// ============================================================
